US05571833
Reductive amination of 3-cyanomethyl-4-chloro-5-methoxyindole (3.82 g, 17.3 mmol) in methanol (200 ml) and dimethylamine (40 ml) over Raney nickel for 21/2 hours at 15 p.s.i. pressure, at room temperature, followed by removal of catalyst and solvent gave a crude product containing two major components. Separation by chromatography (SiO2 ; CHCl3 /MeOH) gave two products. Part of the less polar product (650 mg of 2.13 g) was dissolved in methanol and treated with a solution of excess fumaric acid in methanol. On treatment with diethyl ether and refrigeration, the product, 3-(2-dimethylaminoethyl)-4-chloro-5-methoxyindole fumarate (494 mg) crystallised out, m.p. 223°-5° C. The whole of the more polar product was treated with a solution of oxalic acid in methanol to give 3-(2-aminoethyl)-4-chloro-5-methoxyindole oxalate. Recrystallisation from methanol gave 301 mg, dec > 230° C.

reactant | 3-cyanomethyl-4-chloro-5-methoxyindole | 17.3 mmol, 3.82 g | C(#N)CC1=CNC2=CC=C(C(=C12)Cl)OC | C11H9ClN2O
reactant | fumaric acid | C(\C=C\C(=O)O)(=O)O | C4H4O4
reactant | methanol | 200 ml | CO | CH4O
solvent | dimethylamine | 40 ml | CNC | C2H7N
catalyst | Raney nickel | [Ni] | Ni
product | 3-(2-aminoethyl)-4-chloro-5-methoxyindole oxalate | C(C(=O)O)(=O)O.NCCC1=CNC2=CC=C(C(=C12)Cl)OC | InChI=1S/C11H13ClN2O.C2H2O4/c1-15-9-3-2-8-10(11(9)12)7(4-5-13)6-14-8;3-1(4)2(5)6/h2-3,6,14H,4-5,13H2,1H3;(H,3,4)(H,5,6)
